US07566712B2
Stir a mixture of 4-(3-chloro-phenyl)-2-methoxymethyl-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine in a solution of 30% HBr in HOAc (25 mL) at 60° C. for 3 hours. Evaporate the mixture, adjust the pH to basic with 1M NaOH, and collect a tan solid. Purify by liquid chromatography (3:1 hexanes/EtOAc) to obtain 2-bromomethyl-4-(3-chloro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine as a yellow solid.

reactant | 4-(3-chloro-phenyl)-2-methoxymethyl-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine | ClC=1C=C(C=CC1)C1=NC(=NC(=C1)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F)COC | C22H21ClF3N5O
reactant | HBr | Br | BrH
solvent | HOAc | 25 mL | CC(=O)O | C2H4O2
product | 2-bromomethyl-4-(3-chloro-phenyl)-6-[4-(3-trifluoromethyl-pyridin-2-yl)-piperazin-1-yl]-pyrimidine | BrCC1=NC(=CC(=N1)C1=CC(=CC=C1)Cl)N1CCN(CC1)C1=NC=CC=C1C(F)(F)F | C21H18BrClF3N5
